US06288122B1
(2-Fluorophenyl)-(4-fluorophenyl)phenylmethanol (1.47 g, 5.0 mmol) was added to a 20% solution of acetyl chloride in dichloromethane (10 mL) at rt. The resulting solution was stirred for 12 h after which the solvent was removed by evaporation. Toluene (2×20 mL) was added to the residue and evaporated to afford crude 2-fluorophenyl-(4-fluorophenyl)phenylchloromethane which was used without purification in the next step.

reactant | (2-Fluorophenyl)-(4-fluorophenyl)phenylmethanol | 5.0 mmol, 1.47 g | FC1=C(C=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H14F2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-fluorophenyl-(4-fluorophenyl)phenylchloromethane | FC1=C(C=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H13ClF2
